US07179823B1
A mixture of [1-(4-benzyloxybenzyl)-3-(4-benzyloxybenzyloxy)-1H-pyrazol-4-yl]methanol (6.84 g), activated manganese dioxide (14.00 g), and tetrahydrofuran (70 ml) was stirred at room temperature for one hour. After the manganese dioxide was removed by filtration, the filtrate was concentrated. The crystals obtained were collected by filtration to yield 1-(4-benzyloxybenzyl)-3-(4-benzyloxybenzyloxy)-1H-pyrazole-4-carbaldehyde (6.50 g, yield: 95%). This was recrystallized from tetrahydrofuran-hexane. Melting point: 138–139° C.

reactant | [1-(4-benzyloxybenzyl)-3-(4-benzyloxybenzyloxy)-1H-pyrazol-4-yl]methanol | 6.84 g | C(C1=CC=CC=C1)OC1=CC=C(CN2N=C(C(=C2)CO)OCC2=CC=C(C=C2)OCC2=CC=CC=C2)C=C1 | C32H30N2O4
catalyst | manganese dioxide | 14.00 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 1-(4-benzyloxybenzyl)-3-(4-benzyloxybenzyloxy)-1H-pyrazole-4-carbaldehyde | 6.50 g, yield: 95% | C(C1=CC=CC=C1)OC1=CC=C(CN2N=C(C(=C2)C=O)OCC2=CC=C(C=C2)OCC2=CC=CC=C2)C=C1 | C32H28N2O4
